US08426447B2
Diethylamine (2.39 mL, 23.0 mmol) was added to a solution of 5-bromosalicylic acid (1.000 g, 4.61 mmol), EDC (1.33 g, 6.91 mmol), HOAt (0.627 g, 4.61 mmol) and DMF (20.0 mL) and the system was flushed with argon. The tube was sealed and the mixture stirred at 50° C. for 12 h. The reaction mixture was partitioned between ethyl acetate and water. The aqueous phase was separated and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a brown oil. This oil was purified via column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-50% ethyl acetate-hexane) to afford 5-bromo-N,N-diethyl-2-hydroxybenzamide as an off-white solid. MS m/z=272.1, 274.1 [M+H]+. Calcd for C11H14BrNO2: 272.1.

reactant | Diethylamine | 23.0 mmol, 2.39 mL | C(C)NCC | C4H11N
reactant | 5-bromosalicylic acid | 4.61 mmol, 1.000 g | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | EDC | 6.91 mmol, 1.33 g
reactant | HOAt | 4.61 mmol, 0.627 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 20.0 mL | CN(C)C=O | C3H7NO
product | 5-bromo-N,N-diethyl-2-hydroxybenzamide | BrC=1C=CC(=C(C(=O)N(CC)CC)C1)O | C11H14BrNO2
